US09062034B2
(b) 7-methoxy-8-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine
1.30 g (4.08 mmol) 2,2,2-trifluoro-1-(7-methoxy-8-nitro-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone and 3.06 ml (6.13 mmol) 2 molar sodium hydroxide solution are dissolved in 20 ml THF at room temperature and stirred for 3 h. Then the mixture is concentrated by evaporation i.vac., diluted with water and extracted with tert.-butyl-methylether. The organic phase is washed with 50% sodium hydroxide solution and sat. NaCl solution, dried on sodium sulphate and concentrated by evaporation i.vac.

reactant | 2,2,2-trifluoro-1-(7-methoxy-8-nitro-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone | 4.08 mmol, 1.30 g | FC(C(=O)N1CCC2=C(CC1)C=C(C(=C2)[N+](=O)[O-])OC)(F)F | C13H13F3N2O4
reactant | sodium hydroxide | 6.13 mmol, 2 molar, 3.06 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-methoxy-8-nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC2=C(CCNCC2)C=C1[N+](=O)[O-] | C11H14N2O3
